Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal pain, nausea, vomiting
 
Major Surgical or Invasive Procedure:
No surgical or invasive procedures performed during this 
hospitalization.

 
History of Present Illness:
___ G3P1 at 20 weeks GA, s/p laparoscopic cholecysectomy on 
___, here for less than 24 hours of epigastric pain and 
one episode of vomiting.  After her lap cholecycstectomy on 
___, she reports to have been doing well, tolerating a regular 
diet, and passing gas.  Around 7 pm on ___, she started to 
have increasing epigastric pain and was passing more gas.  The 
pain became gradually more intense.  She tried drinking warm 
water, Tums, and she took 2.5 mg oxycodone and Tylenol, but 
nothing helped.  The pain was exacerbated by respiration.  At 2 
am on ___ she vomited food, and she felt better but the pain 
was still present.

She has never had such an episode before.  Her gallstone attacks 
were different, with worse pain.  She denies fever, chills, 
chest pain, diarrhea.  She has occasional constipation due to 
pregancy, though her last bowel movement was ___ and normal 
consistency and color.  She endorses "difficulty breathing" when 
the pain was intense, but this has now improved.  She has no 
difficulty or burning with urination.

This morning the pain was better still and had since migrated 
around her right lower ribs to include her lower back.  She 
presented to the ED with a sore stomach and lower back, and at 
the time of admission feels that the pain has gone away.
 
Past Medical History:
G3P1 currently pregnant at 20 ___ GA with otherwise uneventful 
pregnancy despite cholelithiasis necessitating cholecystectomy

 
Social History:
___
Family History:
FH: father had HTN, grandfather had DM and died of kidney 
failure
 
Physical Exam:
Physical Exam on Admission:
Vitals: 98.3F, HR 68, BP 128/73, RR 18, 100% RA
General: alert, NAD, oriented x 3, pleasant, cooperative
HEENT: normocephalic, atraumatic, no scleral icterus, oral 
mucosa
moist
CV: RRR, S1/S2 normal, no M/R/G
Resp: CTAB, no wheezes/rales/rhonchi
Abd: bowel sounds present, soft, nontender, nondistended but
gravid, no rebound or guarding; laparoscopic incisions are C/D/I
with Steri-Strips in place and no erythema/discharge/induration
Extremities: no edema, cords, tenderness bilaterally of the 
lower
extremities; 2+ DP pulses bilaterally
 
Pertinent Results:
___ 09:50AM BLOOD WBC-7.9 RBC-4.43 Hgb-13.6 Hct-39.5 MCV-89 
MCH-30.7 MCHC-34.5 RDW-12.6 Plt ___
___ 09:50AM BLOOD Neuts-81.4* Lymphs-14.1* Monos-3.9 
Eos-0.5 Baso-0.1
___ 09:50AM BLOOD Glucose-84 UreaN-5* Creat-0.5 Na-137 
K-4.2 Cl-104 HCO3-22 AnGap-15
___ 09:50AM BLOOD ALT-258* AST-436* AlkPhos-130* 
TotBili-1.4
___ 09:50AM BLOOD Lipase-28

RUQ Ultrasound (___) Impression:
1. No intrahepatic bile duct dilation. Normal caliber CBD. No 
proximal 
ductal stones detected. 
2. Coarsened liver echotexture, which may reflect hepatic 
steatosis. More 
advanced disease such as cirrhosis or fibrosis cannot be 
excluded with this 
technique. 

___ 06:15AM BLOOD WBC-5.9 RBC-4.05* Hgb-12.2 Hct-36.3 
MCV-90 MCH-30.0 MCHC-33.6 RDW-12.7 Plt ___
___ 06:15AM BLOOD ___
___ 06:15AM BLOOD Plt ___
___ 06:15AM BLOOD Glucose-84 UreaN-4* Creat-0.5 Na-138 
K-4.3 Cl-107 HCO3-24 AnGap-11
___ 06:15AM BLOOD ALT-191* AST-184* AlkPhos-101 Amylase-44 
TotBili-0.6
___ 06:15AM BLOOD Calcium-8.7 Phos-2.7 Mg-2.0
 
Brief Hospital Course:
The patient was admitted for observation from the ___ 
___ Emergency ___ on ___ with 
less than 24 hours of abdominal pain and one episode of 
nausea/vomiting.  Of note, she is status post laparoscopic 
cholecystectomy on ___.  In the ED, her vital signs were 
stable.  Right upper quadrant abdominal ultrasound did not show 
fluid collection.

At the time of admission her abdominal and back pain had 
resolved, and she denied symptoms otherwise.  She was taken to 
the floor for monitoring and further diagnostic studies.  She 
was taken for MRCP, which showed a normal liver, a trace amount 
of fluid at the inferior and lateral aspect of the liver, 
without intrahepatic or extrahepatic biliary ductal dilation.  
She was kept on sips of liquids overnight pending morning labs.

On ___ she continued to have no abdominal pain, nausea, 
vomiting, or other symptoms.  Morning labs demonstrated that her 
transaminases and total bilirubin had decreased, and her 
alkaline phosphatase had normalized.  She was advanced to a 
regular diet, which she tolerated well.  She was felt to be 
stable for discharge with followup with Dr. ___ in 2 weeks from 
her surgery date.  She will get outpatient liver function tests 
before this visit.  She understood and was in agreement with 
this plan.  She was discharged to home, ambulating 
independently, tolerating a regular diet, without abdominal 
pain, nausea, or vomiting.

 
Medications on Admission:
prenatal vitamins, oxycodone 2.5 mg PO Q4-6 hrs PRN pain, 
Tylenol
 
Discharge Medications:
1. oxycodone 5 mg Tablet Sig: 0.5 Tablet PO every ___ hours as 
needed for pain: Do not take with other sedatives.  
2. Tylenol ___ mg Tablet Sig: ___ Tablets PO every ___ hours as 
needed for pain: Do not take more than 4000 mg of Tylenol per 
day.  
3. Outpatient Lab Work
Please draw blood and send for liver function tests, including: 
ALT, AST, Alkaline Phosphatase, Total bilirubin, Amylase, 
Lipase.

This should be done prior to office visit with Dr. ___, to 
occur at some point between ___ and ___.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Abdominal pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to ___ from 
the Emergency Department with complaints of abdominal pain.  
Your pain improved and on ___, you are ready for 
discharge to home.

Continue to follow instructions regarding your cholecystectomy.  
In brief:
- Take narcotic pain medications if needed (oxycodone 2.5 mg by 
mouth every four hours as needed).

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.
Please resume all regular home medications , unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.
Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.
Avoid driving or operating heavy machinery while taking pain 
medications.

Incision Care:
*Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 
site.
*Avoid swimming and baths until your follow-up appointment.
*You may shower, and wash surgical incisions with a mild soap 
and warm water. Gently pat the area dry.
*If you have staples, they will be removed at your follow-up 
appointment.
*If you have steri-strips, they will fall off on their own. 
Please remove any remaining strips ___ days after surgery.

 
Followup Instructions:
___